US06326359B1
2-[(Benzyloxy)methyl]-9-[(2R,3R,4R,5R)-3,4-bis{[tert-butyl(dimethyl)silyl]oxy}-5-(methoxymethyl)tetrahydro-2-furanyl]-N-(2,2-diphenylethyl)-9H-purin-6-amine
Sodium hydride (23 mg of an 80% dispersion in mineral oil, 0.76 mmol) was added to a stirred solution of {9-[(2R,3R,4R,5R)-3,4-bis{[tert-butyl(dimethyl)silyl]oxy}-5-(methoxymethyl)tetrahydro-2-furanyl]-6-[(2,2-diphenylethyl)amino]-9H-purin-2-yl}methanol (550 mg, 0.76 mmol) (preparation 15) in tetrahydrofuran (3 ml). The reaction mixture was stirred at room temperature for 10 min and then benzyl bromide (0.117 ml, 1 mmol) added. The reaction mixture was stirred for a further 24 hr and then the solvent removed under reduced pressure. The residue was purified by column chromatography on silica gel eluting with a gradient system of hexane:ethyl acetate (3:1) rising in polarity to (2:1) to give the title compound (65 mg) as a gum. MS: 832 (MNa+).

reactant | Sodium hydride | [H-].[Na+]
reactant | {9-[(2R,3R,4R,5R)-3,4-bis{[tert-butyl(dimethyl)silyl]oxy}-5-(methoxymethyl)tetrahydro-2-furanyl]-6-[(2,2-diphenylethyl)amino]-9H-purin-2-yl}methanol | 0.76 mmol, 550 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1[C@@H](O[C@@H]([C@H]1O[Si](C)(C)C(C)(C)C)COC)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=CC=C1)C1=CC=CC=C1)CO | C38H57N5O5Si2
reactant | benzyl bromide | 1 mmol, 0.117 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 2-[(Benzyloxy)methyl]-9-[(2R,3R,4R,5R)-3,4-bis{[tert-butyl(dimethyl)silyl]oxy}-5-(methoxymethyl)tetrahydro-2-furanyl]-N-(2,2-diphenylethyl)-9H-purin-6-amine | 65 mg | C(C1=CC=CC=C1)OCC1=NC(=C2N=CN(C2=N1)[C@@H]1O[C@@H]([C@H]([C@H]1O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C)COC)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C45H63N5O5Si2
